.subckt 8-1seldec gnd vdd X Y Z A B C D E F G H
XX6 gnd X N005 vdd myinv
XX7 gnd N005 N001 vdd myinv
XX9 gnd Y N006 vdd myinv
XX10 gnd N006 N002 vdd myinv
XX16 gnd Z N004 vdd myinv
XX17 gnd N004 N003 vdd myinv
XX1 N001 N002 N003 gnd vdd A mynand3
XX2 N001 N002 N004 gnd vdd B mynand3
XX3 N001 N006 N003 gnd vdd C mynand3
XX4 N001 N006 N004 gnd vdd D mynand3
XX11 N005 N002 N003 gnd vdd E mynand3
XX12 N005 N002 N004 gnd vdd F mynand3
XX13 N005 N006 N003 gnd vdd G mynand3
XX14 N005 N006 N004 gnd vdd H mynand3
.ends 8-1seldec
