.subckt 8-1selor H G F E D C B gnd A vdd out
XX8 N001 N002 gnd vdd out mynor2
XX5 A B C D gnd vdd N001 mynand4
XX15 E F G H gnd vdd N002 mynand4
.ends 8-1selor
