.subckt 64div gnd in vdd out
XX1 in N001 N009 N001 vdd gnd mydff
XX2 N009 N002 N010 N002 vdd gnd mydff
XX3 N010 N003 N011 N003 vdd gnd mydff
XX4 N011 N004 N012 N004 vdd gnd mydff
XX5 N012 N005 N013 N005 vdd gnd mydff
XX6 N013 N006 N007 N006 vdd gnd mydff
M5 N008 N007 gnd gnd nch l=2u w=24u
M6 N008 N007 vdd vdd pch l=2u w=48u
M7 out N008 vdd vdd pch l=2u w=192u
M8 out N008 gnd gnd nch l=2u w=96u
* .include "./models/mos_tt.lib"
.ends 64div
