.subckt unit in1 in2 Vcc1 out1 out2 Vcc2
XX3 0 in1 Vcc1 N002 inverter
XX6 0 N001 Vcc2 out2 inverter
XX12 0 N002 Vcc1 out1 inverter
XX17 0 in2 Vcc2 N001 inverter
XX10 0 N002 Vcc1 N001 inverter
XX19 0 N001 Vcc2 N002 inverter
.ends unit
