.subckt mydff CK D Q Qb vcc gnd
XX1 gnd D N002 vcc CK N001 myinv_c
XX2 gnd Q Qb vcc CK N001 myinv_c
XX3 gnd N002 N003 vcc myinv
XX4 gnd N003 N002 vcc N001 CK myinv_c
XX5 gnd N003 Qb vcc N001 CK myinv_c
XX6 gnd Qb Q vcc myinv
XX7 gnd CK N001 vcc myinv
.ends mydff
