.subckt myinv_l2w14p22_psw gnd in out vcc sw
M1 out in gnd gnd nch l=2u w=14u
M2 out in N001 vcc pch l=2u w=22u
M3 N001 sw vcc vcc pch l=2u w=150u
.ends myinv_l2w14p22_psw
