.subckt myinv_l4_psw gnd in out vcc sw
M1 out in gnd gnd nch l=4u w=6u
M2 out in N001 vcc pch l=4u w=18u
M3 N001 sw vcc vcc pch l=2u w=150u
.ends myinv_l4_psw
