.subckt myinv_c gnd in out vcc CK CKb
M1 out CKb P001 gnd nch l=2u w=6u
M2 P002 in vcc vcc pch l=2u w=18u
M3 out CK P002 vcc pch l=2u w=18u
M4 P001 in gnd gnd nch l=2u w=6u
.ends myinv_c
