.subckt mynand2 A B gnd vdd Z
M1 Z A vdd vdd pch l=2u w=18u
M2 Z B vdd vdd pch l=2u w=18u
M5 Z A N001 gnd nch l=2u w=6u
M6 N001 B gnd gnd nch l=2u w=6u
.ends mynand2
