.subckt mynand3 A B C gnd vdd Z
M1 Z A vdd vdd pch l=2u w=18u
M2 Z B vdd vdd pch l=2u w=18u
M3 Z C vdd vdd pch l=2u w=18u
M5 Z A N001 gnd nch l=2u w=6u
M6 N001 B N002 gnd nch l=2u w=6u
M7 N002 C gnd gnd nch l=2u w=6u
.ends mynand3
