.subckt mynor2 A B gnd vdd C
M1 C B gnd gnd nch l=2u w=6u
M2 C A gnd gnd nch l=2u w=6u
M3 C B N001 vdd pch l=2u w=18u
M4 N001 A vdd vdd pch l=2u w=18u
.ends mynor2
