.subckt ring16 sw vcc out
XX4 N002 N006 vcc N003 N007 vcc unit
XX1 N001 N005 vcc N002 N006 sw out vcc unit_nand
XX2 N003 N007 vcc N004 N008 vcc unit
XX3 N004 N008 vcc N005 N001 vcc unit
.ends ring16
