.subckt ring24 sw vcc out
XX4 N002 N008 vcc N003 N009 vcc unit
XX1 N001 N007 vcc N002 N008 sw out vcc unit_nand
XX2 N003 N009 vcc N004 N010 vcc unit
XX3 N004 N010 vcc N005 N011 vcc unit
XX5 N005 N011 vcc N006 N012 vcc unit
XX6 N006 N012 vcc N007 N001 vcc unit
.ends ring24
