.subckt ring7_l2w14p22 sw vcc out
XX2 0 N001 N003 vcc myinv_l2w14p22
XX3 0 N003 N004 vcc myinv_l2w14p22
XX4 0 N004 N005 vcc myinv_l2w14p22
XX6 0 N005 N006 vcc myinv_l2w14p22
XX7 0 N006 N007 vcc myinv_l2w14p22
XX8 0 N007 N002 vcc myinv_l2w14p22
XX1 0 N002 N001 vcc sw myinv_l2w14p22_psw
XX5 0 N001 out vcc myinv_l2w14p22
.ends ring7_l2w14p22
