.subckt ring7_nand sw vcc out
XX2 0 out N002 vcc myinv
XX3 0 N002 N003 vcc myinv
XX4 0 N003 N004 vcc myinv
XX6 0 N004 N006 vcc myinv
XX7 0 N006 N007 vcc myinv
XX8 0 N007 N001 vcc myinv
XX1 N001 N005 0 vcc out mynand2
XX5 0 sw N005 vcc myinv
.ends ring7_nand
