.subckt ring7_nor sw vcc out
XX2 0 N001 N002 vcc myinv
XX3 0 N002 N003 vcc myinv
XX4 0 N003 N004 vcc myinv
XX6 0 N004 N006 vcc myinv
XX7 0 N006 N007 vcc myinv
XX8 0 N007 N005 vcc myinv
XX1 sw N005 0 vcc N001 mynor2
XX5 0 N001 out vcc myinv
.ends ring7_nor
