* block symbol definitions
.subckt rings_top vdd x y z out
XX1 0 vdd x y z A B C D E F N003 H 8-1seldec
XX2 N006 N007 N009 N008 N004 N001 N002 0 N005 vdd N010 8-1selor
XX3 0 N010 vdd out 64div
XX4 C vdd N006 ring24
XX5 A vdd N009 ring8
XX6 B vdd N007 ring16
XX7 D vdd N002 ring7_l2w14p22
XX8 E vdd N004 ring7_l4
XX9 N003 vdd N001 ring7_psw
XX11 H vdd N005 ring7_nand
XX10 F vdd N008 ring7_nor
.ends rings_top
